US04230850
STAGE B. 3,8-Diphenyl-4-(3'-morpholino-2'-methylpropoxy)-5,6,7,8-tetrahydrocoumarin
Prepared according to the method of Example 9 from 3,8-diphenyl-4-hydroxy-5,6,7,8-tetrahydrocoumarin and 1-chloro-2-methyl-3-morpholino-propane. A thick, brown oil is obtained which cannot be crystallised. Yield 35%.

reactant | 3,8-diphenyl-4-hydroxy-5,6,7,8-tetrahydrocoumarin | C1(=CC=CC=C1)C=1C(OC=2C(CCCC2C1O)C1=CC=CC=C1)=O | C21H18O3
reactant | 1-chloro-2-methyl-3-morpholino-propane | ClCC(CN1CCOCC1)C | C8H16ClNO
product | 3,8-Diphenyl-4-(3'-morpholino-2'-methylpropoxy)-5,6,7,8-tetrahydrocoumarin | Yield 35% | C1(=CC=CC=C1)C=1C(OC=2C(CCCC2C1OCC(CN1CCOCC1)C)C1=CC=CC=C1)=O | C29H33NO4
